US07727979B2
2-chloro-6-methyl-cyclohexanone (Starting Product for Example C-25)
The chlorination of 2-methylcyclohexanone takes place in a manner similar to that described above for the preparation of 2-tert-butyl-6-chloro-cyclohexanone. The title compound is reacted as a crude product without further characterization.

reactant | 2-methylcyclohexanone | CC1C(CCCC1)=O | C7H12O
reactant | 2-tert-butyl-6-chloro-cyclohexanone | C(C)(C)(C)C1C(C(CCC1)Cl)=O | C10H17ClO
product | 2-chloro-6-methyl-cyclohexanone | ClC1C(C(CCC1)C)=O | C7H11ClO
